US09145441B2
Compound 91g: (S)-1-[(2S,3R)-3-(tert-Butyl-diphenyl-silanyloxy)-2-((S)-2-{(E)-4-[2-((R)-1-hydroxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-butyryl]-hexahydro-pyridazine-3-carboxylic acid
(S)-1-[(2S,3R)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-butyryl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (444 mg, 0.440 mmol) was taken up in a mixture of tetrahydrofuran (10 mL) and water (3 mL) and cooled using an ice bath. Lithium hydroxide monohydrate (148 mg, 3.52 mmol) was then added and the reaction was allowed to slowly warm to room temperature and left to stir for eighty minutes. The solution was then neutralised with hydrochloric acid (2 M) and concentrated until all volatiles had been removed to afford the title compound (368 mg, 100%) as a yellow solid. 1H NMR (300 MHz, CD3OD) δ 0.83 (d, J=6.5 Hz, 3H), 0.87-93 (m, 7H), 0.96 (s, 9H), 1.16-1.61 (m, 13H), 1.63-1.81 (m, 2H), 2.10-2.23 (m, 2H), 2.26-2.33 (m, 1H), 2.64-2.76 (m, 1H), 3.98-4.21 (m, 3H), 4.86 (d, J=11.8 Hz, 1H), 5.08 (d, J=9.6 Hz, 1H), 6.81 (ABq, Δδ=0.17, JAB=16.2 Hz, 2H), 7.13-7.19 (m, 1H), 7.22-7.29 (m, 1H), 7.32-7.47 (m, 6H), 7.52-7.63 (m, 4H), 7.72-8.12 (m, 3H). LCMS (m/z) 836.6 [M+H], Tr=3.03 min.

reactant | (S)-1-[(2S,3R)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-(tert-butyl-diphenyl-silanyloxy)-butyryl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.440 mmol, 444 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H]([C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)(Cl)Cl | C51H64Cl3N5O8Si
reactant | Lithium hydroxide monohydrate | 3.52 mmol, 148 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (S)-1-[(2S,3R)-3-(tert-Butyl-diphenyl-silanyloxy)-2-((S)-2-{(E)-4-[2-((R)-1-hydroxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-butyryl]-hexahydro-pyridazine-3-carboxylic acid | 368 mg, 100% | C(C)(C)(C)[Si](O[C@@H]([C@@H](C(=O)N1N[C@@H](CCC1)C(=O)O)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)O)(C)C)=O)=O)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H61N5O7Si
